2112-10-07 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-10-7**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-10-7**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.3
   HR: 87 (81 - 104) bpm
   BP: 135/79(94) {103/71(81) - 146/92(102)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 99 kg
   Height: 65 Inch
             Total In:
                                                                    468 mL
                                                                    468 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    348 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    460 mL
   Urine:
                                                                  1,460 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -993 mL
                                                                      8 mL
   Respiratory support
   SpO2: 92%
   ABG: 7.34/65/61/38/6
   PaO2 / FiO2: 61
   Physical Examination
   General: obese male in NAD on BIPAP mask. Mildly tachpnic
   HEENT: PERRL, EOMI, anicteric sclera, non-injected conjunctiva. MMM. No
   JVD although difficult with body habitus.
   CV: RRR no m/r/g appreciated
   Lungs: moving some air but not much. Wheezing on expiration
   bilaterally. No crackles or rhonchi.
   Abdomen: +BS, obese, soft, NT
   Ext: no e/c/c
   Labs / Radiology
   251 K/uL
   16.0 g/dL
   266 mg/dL
   1.1 mg/dL
   38 mEq/L
   4.9 mEq/L
   32 mg/dL
   95 mEq/L
   140 mEq/L
   48.3 %
   4.3 K/uL
        [image002.jpg]
                            [**2112-10-6**]  05:58 PM
                            [**2112-10-6**]  07:57 PM
                            [**2112-10-6**]  08:37 PM
                            [**2112-10-6**]  10:00 PM
                            [**2112-10-7**]  12:56 AM
                            [**2112-10-7**]  04:06 AM
   WBC
   4.3
   Hct
   48.3
   Plt
   251
   Cr
   1.2
   1.3
   1.1
   TCO2
   41
   43
   37
   Glucose
   [**Telephone/Fax (3) 3782**]
   Other labs: Differential-Neuts:92.7 %, Lymph:4.9 %, Mono:1.8 %, Eos:0.2
   %, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   68 yo M with HTN, COPD, mild chronic diastolic dysfunction who presents
   with worsening SOB and dyspnea with exertion.
   # Dyspnea: Likely COPD exacerbation given he is not moving much air and
   has bilateral wheezing. Other possibilities include CHF exacerbation
   (his CXR is a poor study but might suggest fluid overload although
   clinically does not show signs of fluid overload and BNP was only in
   the 400 range), pneumonia (no WBC or fever or cough though). Do not
   think this is influenza given no myalgias, fevers or cough and has been
   going on for two weeks.
   -repeat CXR in AM
   -methylprednisolone
   -continue nebs
   -BIPAP
   -send ABG now
   -continue advair
   # hyperkalemia: unknown cause although does have elevated glucose.
   Unknown baseline Cr although over last two years 1.3 might be near the
   baseline. Repeat potassium was 5.4. Repeat EKG on arrival was ok.
   -already given calcium gluconate in ED.
   -monitor postassium
   -EKG in AM
   -monitor on tele
   # elevated HCT: likely secondary to long standing COPD and sleep apnea.
   -continue to monitor
   # HTN: was initially hypertensive in the ED requiring nitro gtt.
   Currently off of this.
   -continue amlodipine and lasix
   -holding lisinopril given hyperkalemia; will restart in AM if
   postassium normalizes
   # HTN: continue amlodipine and lasix. Hold lisinopril as above
   # DM2: uses herbal supplements at home. No medications. Currently
   hyperglycemic and now getting steroids.
   -insulin sliding scale and likely will need standing insulin as well
   -will calculate based on overnight needs.
   -if glucose stays in the upper 300 range, consider insulin gtt. No gap
   currently.
   # diastolic CHF: chronic. Does not seem to be in acute failure.
   -not on BB likely secondary to COPD.
   -holding lisinopril for now given hyperkalemia
   # FEN: NPO for now while on BIPAP
   # PPX: heparin SQ for DVT ppx, bowel regimen, H2 blocker for GI ppx
   given high steroid use.
   # Code: Full
   # Communication: patient and wife.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-10-6**] 05:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-10-07 09:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   --Patient with persistent wheezes noted upon admission without clear
   evidence of persistent volume overlaod.
   --Hyperkalemia treated overnight with good effect
   --Steroids/nebs/BIPAP continued overnight
   --TNG off and no further diuresis continued
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-10-7**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-10-7**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 91 (81 - 106) bpm
   BP: 133/99(104) {103/71(81) - 146/99(108)} mmHg
   RR: 30 (18 - 30) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 99 kg
   Height: 65 Inch
             Total In:
                                                                    468 mL
                                                                    653 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    348 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    690 mL
   Urine:
                                                                  1,460 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -993 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Bipap mask
   SpO2: 90%
   ABG: 7.32/77/65/38/9
   PaO2 / FiO2: 65
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   16.0 g/dL
   251 K/uL
   266 mg/dL
   1.1 mg/dL
   38 mEq/L
   4.9 mEq/L
   32 mg/dL
   95 mEq/L
   140 mEq/L
   48.3 %
   4.3 K/uL
        [image002.jpg]
                            [**2112-10-6**]  05:58 PM
                            [**2112-10-6**]  07:57 PM
                            [**2112-10-6**]  08:37 PM
                            [**2112-10-6**]  10:00 PM
                            [**2112-10-7**]  12:56 AM
                            [**2112-10-7**]  04:06 AM
                            [**2112-10-7**]  07:09 AM
   WBC
   4.3
   Hct
   48.3
   Plt
   251
   Cr
   1.2
   1.3
   1.1
   TCO2
   41
   43
   37
   42
   Glucose
   [**Telephone/Fax (3) 3782**]
   Other labs: Differential-Neuts:92.7 %, Lymph:4.9 %, Mono:1.8 %, Eos:0.2
   %, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: 7.28/88/79-->then
   7.34/65/61-->then
   7.32/77/65-->This morning
   Imaging: CXR-
   Bilateral lower lobe opacities which may be a mix of effusion (small)
   and atelectasis
   Microbiology: Blood and Urine Cultures--Negative
   Assessment and Plan
   68 yo male with history of COPD now presenting with worsening dyspnea
   which failed to respond to a short course of prednisone at home.  In
   the setting of increasing O2 requirement at home patient to ED for
   further evaluation. In ED patient with hypoxemia and given steroids and
   Lasix with BIPAP utilized in ED for support with good response.
   Patient to ICU with continued BIPAP support well tolerated.  He had
   initial Rx directed at bronchospasm and had excellent response in the
   setting of discontinuation of efforts aimed at diuresis.
   1)Respiratory Failure-
   -Will continue with BIPAP 16/8 which has shown good effect in terms of
   patient tolerance and respiratory distress
   -Will move to slow steroid taper
   -Continue with standing bronchodilator
Atrovent/Albuterol
   -[**Month (only) 51**] have persistent restrictive defect with obesity and this will
   likely contribute to ongoing requirement for ventilatory support
   -In the setting of persistent hypoxemia patient may well have evolution
   of mild polycythemia
   --Goal PCO2=60-65
   2)Hyperkalemia-
   -Resolved
   3)DM
Type II
Uncontrolled
   -In the setting of steroids will need continued support of elevated
   blood sugars
   -Insulin sliding scale and will have to continue to maintain a standing
   dose over time
 .H/O DYSPNEA (SHORTNESS OF BREATH)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin Sliding Scale
   Lines:
   20 Gauge - [**2112-10-6**] 05:49 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: H 2 Blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU and perhaps to floor with stable BIPAP settings
   Total time spent: 35

2112-10-08 05:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
          on bipap all day, abgs stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-10-7**] 06:08 AM
   Ranitidine (Prophylaxis) - [**2112-10-7**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-10-8**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 66 (63 - 106) bpm
   BP: 101/71(81) {92/32(61) - 160/99(108)} mmHg
   RR: 25 (17 - 35) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94 kg
   Height: 65 Inch
             Total In:
                                                                  2,523 mL
                                                                    550 mL
   PO:
                                                                    470 mL
             TF:
   IVF:
                                                                  2,053 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    350 mL
   Urine:
                                                                  2,480 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     43 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: Standby
   Vt (Spontaneous): 162 (162 - 162) mL
   PS : 16 cmH2O
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 0 cmH2O
   SpO2: 90%
   ABG: 7.36/73.[**Numeric Identifier 218**]/59/40/11
   PaO2 / FiO2: 59
   Physical Examination
   General: obese male in NAD on BIPAP mask. Mildly tachpnic
   HEENT: PERRL, EOMI, anicteric sclera, non-injected conjunctiva. MMM. No
   JVD although difficult with body habitus.
   CV: RRR no m/r/g appreciated
   Lungs: moving some air but not much. Wheezing on expiration
   bilaterally. No crackles or rhonchi.
   Abdomen: +BS, obese, soft, NT
   Ext: no e/c/c
   Labs / Radiology
   257 K/uL
   16.0 g/dL
   194 mg/dL
   1.1 mg/dL
   40 mEq/L
   4.3 mEq/L
   37 mg/dL
   96 mEq/L
   142 mEq/L
   48.5 %
   7.6 K/uL
        [image002.jpg]
                            [**2112-10-6**]  05:58 PM
                            [**2112-10-6**]  07:57 PM
                            [**2112-10-6**]  08:37 PM
                            [**2112-10-6**]  10:00 PM
                            [**2112-10-7**]  12:56 AM
                            [**2112-10-7**]  04:06 AM
                            [**2112-10-7**]  07:09 AM
                            [**2112-10-7**]  05:11 PM
                            [**2112-10-8**]  03:33 AM
   WBC
   4.3
   7.6
   Hct
   48.3
   48.5
   Plt
   251
   257
   Cr
   1.2
   1.3
   1.1
   1.1
   TCO2
   41
   43
   37
   42
   43
   Glucose
   [**Telephone/Fax (3) 3808**]94
   Other labs: Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL; ABG: 7.36 /
   73 / 59  / 43; lactate 1.1, O2 sat 89%
   Assessment and Plan
   68 yo M with HTN, COPD, mild chronic diastolic dysfunction who presents
   with worsening SOB and dyspnea with exertion.
   # Hypercarbic/ Hypoxic Respiratory Failure: Cause unclear.  Could be
   COPD exacerbation given he was not moving much air and had bilateral
   wheezing on presentation. Unlikely to be CHF or PNA given CXR findings
   and low BNP though may be somewhat volume overloaded.  ABGs stable,
   slightly improved but hypoxic and hypercarbic respiratory acidosis.
   -methylprednisolone 125mg IV q8 hours X 72 hours
   -continue nebs
   -BIPAP, wean to face mask as tolerated
   -continue advair
   -diurese today with Lasix 40 mg IV
   -ECHO to assess for CHF
   -CTA to r/o PE (low probability) if no further improvement after above
   # Hyperkalemia: Now resolved.  Multifactorial due to elevated glucose,
   acidosis causing potassium to shift out of cells, also Lisinopril
   contributing. No ECG changes.  Has improved to 4.3.
   - continue to monitor
   # elevated HCT: likely secondary to long standing COPD and sleep apnea.
   -continue to monitor
   # HTN: was initially hypertensive in the ED requiring nitro gtt.
   Currently off of this.
   -continue amlodipine and lasix
   -lisinopril initially held given hyperkalemia; will consider resuming
   # DM2: uses herbal supplements at home. No medications. Currently
   hyperglycemic and now getting steroids.
   -increase insulin sliding scale
   # diastolic CHF: chronic. Does not seem to be in acute failure.
   -not on BB likely secondary to COPD.
   -will consider restarting lisinopril
   -ECHO to assess for CHF
   # FEN: NPO for now while on BIPAP
   # PPX: heparin SQ for DVT ppx, bowel regimen, H2 blocker for GI ppx
   given high steroid use.
   # Code: Full
   # Communication: patient and wife.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-10-6**] 05:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-10-09 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Diuresed
   - weaned to face mask
   - today - taper steroids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2112-10-8**] 09:00 AM
   Furosemide (Lasix) - [**2112-10-8**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-10-8**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-10-9**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 65 (57 - 84) bpm
   BP: 99/67(72) {90/47(60) - 134/92(103)} mmHg
   RR: 24 (17 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94 kg
   Height: 65 Inch
                  Total In:
                                                                  1,010 mL
                                                                    200 mL
   PO:
                                                                    410 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    225 mL
   Urine:
                                                                  3,130 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,120 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///42/
   Physical Examination
   General: obese male in NAD on BIPAP mask. Mildly tachpnic
   HEENT: PERRL, EOMI, anicteric sclera, non-injected conjunctiva. MMM. No
   JVD although difficult with body habitus.
   CV: RRR no m/r/g appreciated
   Lungs: moving some air but not much. Wheezing on expiration
   bilaterally. No crackles or rhonchi.
   Abdomen: +BS, obese, soft, NT
   Ext: no e/c/c
   Labs / Radiology
   257 K/uL
   16.9 g/dL
   189 mg/dL
   1.3 mg/dL
   42 mEq/L
   4.0 mEq/L
   41 mg/dL
   94 mEq/L
   143 mEq/L
   50.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2112-10-6**]  07:57 PM
                            [**2112-10-6**]  08:37 PM
                            [**2112-10-6**]  10:00 PM
                            [**2112-10-7**]  12:56 AM
                            [**2112-10-7**]  04:06 AM
                            [**2112-10-7**]  07:09 AM
                            [**2112-10-7**]  05:11 PM
                            [**2112-10-8**]  03:33 AM
                            [**2112-10-8**]  03:13 PM
                            [**2112-10-9**]  03:17 AM
   WBC
   4.3
   7.6
   7.5
   Hct
   48.3
   48.5
   50.8
   Plt
   [**Telephone/Fax (3) 3845**]
   Cr
   1.3
   1.1
   1.1
   1.2
   1.3
   TCO2
   41
   43
   37
   42
   43
   Glucose
   329
   266
   194
   209
   189
   Other labs: Differential-Neuts:92.7 %, Lymph:4.9 %, Mono:1.8 %, Eos:0.2
   %, Lactic Acid:1.1 mmol/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   68 yo M with HTN, COPD, mild chronic diastolic dysfunction who presents
   with worsening SOB and dyspnea with exertion.
   # Hypercarbic/ Hypoxic Respiratory Failure: Cause unclear.  Could be
   COPD exacerbation given he was not moving much air and had bilateral
   wheezing on presentation. Unlikely to be CHF or PNA given CXR findings
   and low BNP though may be somewhat volume overloaded.  ABGs stable,
   slightly improved but hypoxic and hypercarbic respiratory acidosis.
   -methylprednisolone 125mg IV q8 hours X 72 hours
   -continue nebs
   -BIPAP, wean to face mask as tolerated
   -continue advair
   -diurese today with Lasix 40 mg IV
   -ECHO to assess for CHF
   -CTA to r/o PE (low probability) if no further improvement after above
   # Hyperkalemia: Now resolved.  Multifactorial due to elevated glucose,
   acidosis causing potassium to shift out of cells, also Lisinopril
   contributing. No ECG changes.  Has improved to 4.3.
   - continue to monitor
   # elevated HCT: likely secondary to long standing COPD and sleep apnea.
   -continue to monitor
   # HTN: was initially hypertensive in the ED requiring nitro gtt.
   Currently off of this.
   -continue amlodipine and lasix
   -lisinopril initially held given hyperkalemia; will consider resuming
   # DM2: uses herbal supplements at home. No medications. Currently
   hyperglycemic and now getting steroids.
   -increase insulin sliding scale
   # diastolic CHF: chronic. Does not seem to be in acute failure.
   -not on BB likely secondary to COPD.
   -will consider restarting lisinopril
   -ECHO to assess for CHF
   # FEN: NPO for now while on BIPAP
   # PPX: heparin SQ for DVT ppx, bowel regimen, H2 blocker for GI ppx
   given high steroid use.
   # Code: Full
   # Communication: patient and wife.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-10-9**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: